### PR TITLE
linting of the whole library

### PR DESCRIPTION
**Pull request by CohenCyril**
please check I did not mess up too much stuff

### CODE REVIEW

File: mathcomp/solvable/burnside_app.v [hunk 1]
```diff
@@ -1137,10 +1137,10 @@ Qed.
 Lemma uniq4_uniq6 : forall x y z t : cube,
   uniq [:: x; y; z; t] -> exists u, exists v, uniq [:: x; y; z; t; u; v].
 Proof.
-move => x y z t Uxt; move:( cardC  (mem [:: x; y; z; t])).
+move=> x y z t Uxt; move: ( cardC  (mem [:: x; y; z; t])).
```
Comment (ybertot) [inline mathcomp/solvable/burnside_app.v]: should be move: (cardC ...

File: mathcomp/solvable/gfunctor.v [hunk 2]
```diff
@@ -158,7 +158,7 @@ End Definitions.
 Section ClassDefinitions.
 
 Structure iso_map := IsoMap {
-  apply : object_map;
+  apply: object_map;
```
Comment (ybertot) [inline mathcomp/solvable/gfunctor.v]: This is a clash.  In this context apply is a structure field name and the colon is akin to a type cast.  For this usage the colon should be surrounded by space.

File: mathcomp/attic/algnum_basic.v [hunk 3]
```diff
@@ -465,55 +465,55 @@ have [b2 [/andP[/eqP-b2s b2f] b2H]] : exists (b2 : n.-tuple L0), [/\ basis_of L
...
   have [B1 [B1f [B1s B1A]]] : exists B1, basis_of_mod A M1 B1.
     have X1f : free X1 by move: Xf; rewrite (tuple_eta X) free_cons => /andP[_].
     apply/(IH X1) => //.
       rewrite /module /M1 linear0; split => // a x y aA [xM xfc0] [yM yfc0].
       have := Mm a x y aA xM yM; move: aA => /Asub1/vlineP[r] ->; rewrite mulr_algl => msc.
       by rewrite /M1 linearB linearZ /= xfc0 yfc0 subr0 mulr0.
-    move => m [mM mfc0]; have := span_coord m mM; move => [r [rA rS rC]].
-    move: mfc0 (rC 0) ->; rewrite scale0r; move => r0; rewrite /span_mod size_tuple.
+    move=> m [mM mfc0]; have := span_coord m mM => - [r [rA rS rC]].
+    move: mfc0 (rC 0) ->; rewrite scale0r => - r0; rewrite /span_mod size_tuple.
```
Comment (ggonthier) [inline mathcomp/attic/algnum_basic.v]: spurious `-` before `r0`

File: mathcomp/attic/algnum_basic.v [hunk 4]
```diff
@@ -465,55 +465,55 @@ have [b2 [/andP[/eqP-b2s b2f] b2H]] : exists (b2 : n.-tuple L0), [/\ basis_of L
...
     exists [tuple of behead r]; first by apply/allP => a /mem_behead/(allP rA).
     by rewrite rS big_ord_recl -r0 mul0r add0r; apply/eq_bigr => i _; rewrite !nth_behead.
   have [a [w wM wC] aG] : exists2 a, M2 a & forall v, M2 v -> exists2 d, d \in A & d * a = v.
     apply/Apid; split.
-      move => c [m mM <-]; have := span_coord m mM; move => [r [/all_nthP-rA _ rC]].
+      move=> c [m mM <-]; have := span_coord m mM => - [r [/all_nthP-rA _ rC]].
```
Comment (ggonthier) [inline mathcomp/attic/algnum_basic.v]: should be `=> -[r ...`

File: mathcomp/attic/algnum_basic.v [hunk 5]
```diff
@@ -465,55 +465,55 @@ have [b2 [/andP[/eqP-b2s b2f] b2H]] : exists (b2 : n.-tuple L0), [/\ basis_of L
...
   case: (eqVneq a 0) => [| an0].
-    exists B1; split => //; split => [m mM |]; last by move => m /B1A[mM].
+    exists B1; split => //; split => [m mM |]; last by move=> m /B1A[mM].
     apply/B1s; split => //; apply/Ainj => /=; have [d _ <-] := mcM1 m mM.
-    by rewrite a0 mulr0 scale0r.      
+    by rewrite a0 mulr0 scale0r.
   exists (w :: B1); split.
     rewrite free_cons B1f andbT; move: an0; apply/contra; move: wC <-.
-    rewrite -(in_tupleE B1); move => /coord_span ->; apply/eqP.
+    rewrite -(in_tupleE B1) => - /coord_span ->; apply/eqP.
```
Comment (ggonthier) [inline mathcomp/attic/algnum_basic.v]: spurious `-` in intro pattern

File: mathcomp/attic/algnum_basic.v [hunk 6]
```diff
@@ -465,55 +465,55 @@ have [b2 [/andP[/eqP-b2s b2f] b2H]] : exists (b2 : n.-tuple L0), [/\ basis_of L
...
     rewrite linear_sum big1 ?scale0r => //= i _; rewrite linearZ /=.
     by have [_] := B1A B1`_i (mem_nth 0 (ltn_ord _)) => ->; rewrite mulr0.
-  split => [m mM | m]; last by rewrite in_cons; move => /orP; case => [/eqP ->|/B1A[mM]].
+  split => [m mM | m]; last by rewrite in_cons => - /orP; case=> [/eqP ->|/B1A[mM]].
```
Comment (ggonthier) [inline mathcomp/attic/algnum_basic.v]: spurious `-` in intro pattern; also the following `case` should be merged in the intro pattern.

File: mathcomp/attic/algnum_basic.v [hunk 7]
```diff
@@ -525,17 +525,17 @@ have [X Xb] : exists X, basis_of_mod A (int_closure A L) X.
   apply/(Mbasis _ b2 _ b2f) => [| m [mL mI]]; first by apply/int_mod_closed.
   pose r : n.-tuple L0 := [tuple (coord b2 i m)%:A | i < n]; rewrite /span_mod size_tuple.
   exists r; have rci (i : 'I_n) : r`_i = (coord b2 i m)%:A by rewrite -tnth_nth tnth_mktuple.
-    apply/(all_nthP 0) => i; rewrite size_tuple; move => iB.
-    by have -> := rci (Ordinal iB); apply/b2H. 
-  move: mL; rewrite -b2s; move => /coord_span ->; apply/eq_bigr => i _.
+    apply/(all_nthP 0) => i; rewrite size_tuple => - iB.
+    by have -> := rci (Ordinal iB); apply/b2H.
+  move: mL; rewrite -b2s => - /coord_span ->; apply/eq_bigr => i _.
```
Comment (ggonthier) [inline mathcomp/attic/algnum_basic.v]: spurious `-` in intro patterns (x2)

File: mathcomp/attic/algnum_basic.v [hunk 8]
```diff
@@ -525,17 +525,17 @@ have [X Xb] : exists X, basis_of_mod A (int_closure A L) X.
...
   by rewrite rci mulr_algl.
 exists X => //; move: Xb => [/eqP-Xf [Xs Xg]]; rewrite -Xf eqn_leq; apply/andP; split.
   by apply/dimvS/span_subvP => m /Xg[mL _].
 have /andP[/eqP-b1s _] := b1B; rewrite -b1s; apply/dimvS/span_subvP => b /tnthP-[i ->] {b}.
 rewrite (tnth_nth 0); have [r /all_tnthP-rA ->] : span_mod A X b1`_i.
   by apply/Xs; rewrite /int_closure (basis_mem b1B) ?mem_nth ?size_tuple => //.
-apply/rpred_sum => j _; have := rA j; rewrite (tnth_nth 0); move => /Asub1/vlineP[c ->].
-by rewrite mulr_algl; apply/rpredZ/memv_span/mem_nth. 
+apply/rpred_sum => j _; have := rA j; rewrite (tnth_nth 0) => - /Asub1/vlineP[c ->].
```
Comment (ggonthier) [inline mathcomp/attic/algnum_basic.v]: spurious `-` in intro pattern

**Comment by amahboubi** [comment]
Hello @ggonthier and @ybertot : this PR seems to be ready for merging, but since it has been open for long, I am checking: any objection?

**Comment by CohenCyril** [comment]
@amahboubi I did not do the tweaks @ggonthier asked. So it's not ready for merging.

**Comment by amahboubi** [comment]
Yes, I can see that, but if I am not mistaken, the present PR is about the result of the linting, and only deals with .v files.  From a superficial reading, it was not clear to me whether the comments above point to spurious blanks/bullets that your script introduced, or to  wrinkles already present in the original code. But the spurious  '-' in intro patterns seem to belong to the first category... Am I correct?

**Comment by CohenCyril** [comment]
Hi @amahboubi, every single comment is on the diff indeed, so they all are mistakes introduced by my scripts (by simplifying a more verbose script). So in order to merge this PR, one must fix all the comments by Geroges in a manual way, or change the script to fix them, ... I prefer the first option, since this PR is independent from #163 ...

**Comment by CohenCyril** [comment]
I am going to do it now...

**Comment by CohenCyril** [comment]
@amahboubi I was wrong, some of the things @ggonthier spotted are already present in the original code, but on the same line as things my script changed.
Anyway, I believe this should be merge, until the next pass of a more advanced linter...
